US06562828B1
4-(2-Acetyl-1,2,3,4-tetrahydroisoquinolin-7-ylthiomethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic Acid Ethyl Ester
To a solution of 4-(2-acetyl-1,2,3,4-tetrahydroisoquinolin-7-ylthiomethyl)-4-ethoxycarbonylpiperidine-1-carboxylic acid tert-butyl ester (221 mg) in chloroform (0.5 ml) was added trifluoroacetic acid (1 ml), and the mixture was stirred at room temperature for 10 min. After completion of the reaction, the solvent was evaporated and to the obtained residue were added ethanol (3 ml), triethylamine (0.39 ml) and 4-chloropyridine hydrochloride (70 mg). The mixture was stirred in a sealed tube at 150° C. for 2 days. After completion of the reaction, the solvent was evaporated, and the obtained residue was purified by silica gel column chromatography (5% methanol-chloroform) and dried under reduced pressure to give the title compound (63 mg).

reactant | 4-(2-acetyl-1,2,3,4-tetrahydroisoquinolin-7-ylthiomethyl)-4-ethoxycarbonylpiperidine-1-carboxylic acid tert-butyl ester | 221 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OCC)CSC1=CC=C2CCN(CC2=C1)C(C)=O | C25H36N2O5S
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-Acetyl-1,2,3,4-tetrahydroisoquinolin-7-ylthiomethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic Acid Ethyl Ester | 63 mg | C(C)OC(=O)C1(CCN(CC1)C1=CC=NC=C1)CSC1=CC=C2CCN(CC2=C1)C(C)=O | C25H31N3O3S
